US07244728B2
c) N-[2-(4-fluoro-3-trifluoromethyl-phenyl)-1,1-dimethyl-ethyl]-formamide
A solution of 30 mL conc. sulphuric acid and 15 mL glacial acetic acid is added dropwise to 1.0 g (20.4 mmol) sodium cyanide in 15 mL glacial acetic acid, while the temperature rises to approx. 30° C. Then 3.4 g (15.6 mmol) 1-fluoro-4-(2-methyl-propenyl)-2-trifluoromethyl-benzene, dissolved in 15 mL glacial acetic acid, are added and the mixture is stirred for 1 hour at 50-60° C. After cooling to ambient temperature the mixture is poured onto ice water and made alkaline with sodium hydroxide solution. It is extracted with diethyl ether and the organic phases are washed with water, dried with sodium sulphate and evaporated down. 3.64 g of a brown oil are obtained.

reactant | sulphuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium cyanide | 20.4 mmol, 1.0 g | [C-]#N.[Na+]
reactant | 1-fluoro-4-(2-methyl-propenyl)-2-trifluoromethyl-benzene | 15.6 mmol, 3.4 g | FC1=C(C=C(C=C1)C=C(C)C)C(F)(F)F | C11H10F4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | N-[2-(4-fluoro-3-trifluoromethyl-phenyl)-1,1-dimethyl-ethyl]-formamide | 3.64 g | FC1=C(C=C(C=C1)CC(C)(C)NC=O)C(F)(F)F | C12H13F4NO
